US06124503
In a 1-l flask, place 92.11 g (0.4 m) of the blocked aminobenzaldehyde, 250 ml of acetic acid and 67.3 g (0.8 m) of cyclopentanone. Heat the mixture to 40 C. Add 23.57 g (0.4 m) of borane-dimethylamine complex slowly keeping the temperature at 60 C. Stir the mixture at 60-65 C. for 1 hour, and cool to room temperature. Add 375 ml of water and stir for 15 minutes. Collect solids, wash with water, and deliquor as much as possible. In a 1-l flask, place the wet intermediate, 200 ml of methanol, and 120 g of 50% NaOH solution. Heat the mixture under reflux for 1 hour. Add 220 ml of hot water and distill off methanol till approximately 240 ml of distillate is collected and pot temperature reaches close to 100 C. Heat the mixture under reflux for 1 hour, and then cool to room temperature. Add 300 ml of propyl acetate, stir for 5 minutes, and let layers settle. Separate bottom water layer. Wash the propyl acetate solution with 200 ml of brine. Dry over magnesium sulfate and distill propyl acetate under a reduced pressure to a red viscous oil. Add 300 ml of heptanes with vigorous stirring. Stir the resulting slurry at room temperature for 45 minutes. Collect product, wash with heptanes, and dry to give 65.1 g (80%) of 4-cyclopentylamino-2-methylbenzaldehyde as yellow solids.

reactant | aminobenzaldehyde | 92.11 g | NC1=C(C=O)C=CC=C1 | C7H7NO
reactant | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
reactant | cyclopentanone | 67.3 g | C1(CCCC1)=O | C5H8O
solvent | water | 375 ml | O | H2O
product | 4-cyclopentylamino-2-methylbenzaldehyde | 65.1 g, 80% | C1(CCCC1)NC1=CC(=C(C=O)C=C1)C | C13H17NO
